US07572801B2
Thionylchloride (288 μl, 3.98 mmol) was added dropwise to a solution of 5-(4-fluoro-phenyl)-pentanoic acid (520 mg, 2.65 mmol) in methanol (11 ml) at −15° C. The reaction mixture was then stirred at room temperature for 1.5 h. Water was added and the mixture was extracted 3 times with diethylether. The combined extracts were washed with water and brine, dried (Na2SO4) and evaporated. The remaining residue was purified by column chromatography (silica gel, ethyl acetate/heptane 5:95 to 12:88) to obtain 5-(4-fluoro-phenyl)-pentanoic acid methyl ester (420 mg, 2 mmol; 75%) as colorless liquid. MS: m/e 211.0 [M+H+].

reactant | Thionylchloride | 3.98 mmol, 288 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(4-fluoro-phenyl)-pentanoic acid | 2.65 mmol, 520 mg | FC1=CC=C(C=C1)CCCCC(=O)O | C11H13FO2
reactant | Water | O | H2O
reactant | methanol | 11 ml | CO | CH4O
product | 5-(4-fluoro-phenyl)-pentanoic acid methyl ester | 2 mmol, 420 mg, 75% | COC(CCCCC1=CC=C(C=C1)F)=O | C12H15FO2
